US03956363
The above reactions of Example 1C are repeated except that the starting materials are 2-methyl-5-cyanoindanone and methylbromoacetate. Using the same reaction conditions and techniques there is obtained methyl 2-methyl-6-cyano-3-indenylacetate.

reactant | 2-methyl-5-cyanoindanone | CC1C(C2=CC=C(C=C2C1)C#N)=O | C11H9NO
reactant | methylbromoacetate | COC(CBr)=O | C3H5BrO2
product | methyl 2-methyl-6-cyano-3-indenylacetate | CC=1CC2=CC(=CC=C2C1CC(=O)OC)C#N | C14H13NO2
